US07514452B2
Preparation of 3-(3-hydroxyphenyl)-2-furancarboxylic acid
A mixture of the compound of Reference Example 1 (1.5 g), 3-hydroxyphenylboronic acid pinacol cyclic ester (2.4 g), tetrakis(triphenylphosphine)palladium (0.8 g) and cesium carbonate (3.5 g) were heated at reflux in a mixed solvent of THF (20 ml) and water (10 ml) for 16 hours under an argon atmosphere. After cooling, toluene was added to the reaction solution, and extracted with a 5% aqueous sodium hydroxide solution. The aqueous layer was acidified with concentrated hydrochloric acid and extracted with ethyl acetate. The organic layer was successively washed with water and saturated brine, and the solvent was evaporated under reduced pressure, thereby giving 1.4 g of the desired compound (1.4 g).

reactant | cesium carbonate | 3.5 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | THF | 20 ml | C1CCOC1 | C4H8O
reactant | water | 10 ml | O | H2O
reactant | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium | 0.8 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(3-hydroxyphenyl)-2-furancarboxylic acid | 1.4 g | OC=1C=C(C=CC1)C1=C(OC=C1)C(=O)O | C11H8O4
